US09029371B2
To a solution of 4-benzyl-6-(4-hydroxy-2-trifluoromethyl-phenyl)-morpholin-3-one (26.18 g; 67.3 mmol) in THF (600 mL) was added dropwise BH3.THF in THF (235.4 mL; 1.00 mol/1; 235.4 mmol), at 0° C. The resulting mixture was stirred for 1 hour at 0° C. and thereafter 18 hours at RT. Subsequently, 1M aqueous HCl (550 mL) was added and the mixture stirred overnight at RT. The resulting mixture was partitioned between EtOAc and 2M aqueous NaOH (350 mL), the organic layers was dried (MgSO4), filtered, and concentrated in vacuo. The residue was purified by column chromatography (SiO2, CH2Cl2/MeOH 98:2) to afford 4-(4-benzyl-morpholin-2-yl)-3-trifluoromethyl-phenol

reactant | 4-benzyl-6-(4-hydroxy-2-trifluoromethyl-phenyl)-morpholin-3-one | 67.3 mmol, 26.18 g | C(C1=CC=CC=C1)N1C(COC(C1)C1=C(C=C(C=C1)O)C(F)(F)F)=O | C18H16F3NO3
reactant | BH3.THF | B.C1CCOC1
reactant | HCl | 1M, 550 mL | Cl | ClH
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | THF | 1.00 mol, 235.4 mL | C1CCOC1 | C4H8O
product | 4-(4-benzyl-morpholin-2-yl)-3-trifluoromethyl-phenol | C(C1=CC=CC=C1)N1CC(OCC1)C1=C(C=C(C=C1)O)C(F)(F)F | C18H18F3NO2
